US05420172
Production of 4,4'-dinitrostilbene
3.5 mol p-nitrobenzylchloride are dissolved in the hot in 2300 ml of ethanol and a solution of 3.8 mol potassium hydroxide in 1100 ml of aqueous ethanol (70:30) is added thereto drop by drop. After completion of the addition, cooling takes place in an ice bath to 0° C., the precipitate is filtered off and washed in hot water and warm aqueous alcohol (50:50). Drying is then carried out in a vacuum at 75° C. (yield: 83%).

reactant | p-nitrobenzylchloride | 3.5 mol | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | potassium hydroxide | 3.8 mol | [OH-].[K+]
solvent | ethanol | 2300 ml | C(C)O | C2H6O
solvent | ethanol | 1100 ml | C(C)O | C2H6O
product | 4,4'-dinitrostilbene | yield: 83% | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H10N2O4
